US07098212B2
4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-4-hydroxy-butyric acid
To a solution of 4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-4-oxo-butyric acid (0.10 g, 0.20 mmol) in methanol (4 mL) was added sodium borohydride (0.012 g, 0.32 mmol). The reaction was stirred at ambient temperature for 3 hours. The reaction was then diluted with brine and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Trituration in diethyl ether/methylene chloride/hexanes gave the title compound (0.095 g, LRMS: 493.2, 495.3).

reactant | 4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-4-oxo-butyric acid | 0.20 mmol, 0.10 g | ClC=1C=CC(=C(C1)C(CCC(=O)O)=O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H28ClFN2O5
reactant | sodium borohydride | 0.32 mmol, 0.012 g | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-4-hydroxy-butyric acid | 0.095 g | ClC=1C=CC(=C(C1)C(CCC(=O)O)O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H30ClFN2O5
